US04866064
In 32 ml of water and 32 ml of ethanol, 27.2 g of 2-amino-5-mercapto-1,3,4-thiadiazole and 9.0 g of sodium hydroxide were added. To this solution, 45.2 g of 1-iodoheptane was added, and the mixture was stirred at 60° C. for 2 hours. After cooling, water was added to the mixture and the mixture was filtered. The residue was washed with water, dried under reduced pressure, and recrystallized from an ethanol/n-hexane (1:1) mixture. Thus 36.1 g of 2-amino-5-heptylthio-1,3,4-thiadiazole was obtained.

reactant | 2-amino-5-mercapto-1,3,4-thiadiazole | 27.2 g | NC=1SC(=NN1)S | C2H3N3S2
reactant | sodium hydroxide | 9.0 g | [OH-].[Na+]
reactant | 1-iodoheptane | 45.2 g | ICCCCCCC | C7H15I
solvent | water | 32 ml | O | H2O
solvent | ethanol | 32 ml | C(C)O | C2H6O
product | 2-amino-5-heptylthio-1,3,4-thiadiazole | 36.1 g, Yield 78% | NC=1SC(=NN1)SCCCCCCC | C9H17N3S2
